US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-{3-[(2-methoxyethyl)methylcarbamoyl]-4-methylbenzyloxy}piperidine-1-carboxylate
The solution of 0.222 g of tert-butyl 3-(3-chlorocarbonyl-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 6 ml of toluene is admixed at 0° C. with the solution of 0.129 g of 2-methoxy-N-methylethylamine in 6 ml of toluene. The reaction mixture is stirred at 0° C. over a further 1 hour and then concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.12 (1:2 EtOAc-heptane); Rt=5.72.

reactant | tert-butyl 3-(3-chlorocarbonyl-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.222 g | ClC(=O)C=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1C | C36H44ClNO7
reactant | 2-methoxy-N-methylethylamine | 0.129 g | COCCNC | C4H11NO
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-{3-[(2-methoxyethyl)methylcarbamoyl]-4-methylbenzyloxy}piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC(=C(C=C2)C)C(N(C)CCOC)=O)C=CC=C1 | C40H54N2O8
